US04450157
8.3 g (0.12 mol) of hydroxylamine hydrochloride are dissolved in 50 ml of water and treated with 10.1 g (0.12 mol) of sodium bicarbonate. This solution (pH 6-7) is added at room temperature while stirring to a solution of 14.3 g (0.1 mol) of 3-methyl-3-thiocyanato-2-butanone in 100 ml of ethanol. The temperature of the mixture rises rapidly to 37° C. The mixture is subsequently stirred for an additional 1 hour and 120 mlof the solvent are distilled off at 50° C. under reduced pressure. The residue is extracted three times with 100 ml of diethyl ether each time and the organic phase is washed with a small amount of water, dried over anhydrous sodium sulfate and concentrated until crystallization begins. After cooling, the crystal slurry is treated with 10 ml of n-hexane. The crystals are filtered off under suction, washed with diethylether/n-hexane (2:1) and dried to yield 2-oxo-4,5,5-trimethyl-3-thiazoline oxime, m.p. 151°-153° C.

reactant | hydroxylamine hydrochloride | 0.12 mol, 8.3 g | Cl.NO
reactant | sodium bicarbonate | 0.12 mol, 10.1 g | C([O-])(O)=O.[Na+]
reactant | 3-methyl-3-thiocyanato-2-butanone | 0.1 mol, 14.3 g | CC(C(C)=O)(C)SC#N | C6H9NOS
solvent | water | 50 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-oxo-4,5,5-trimethyl-3-thiazoline oxime | N(O)=C1SC(C(=N1)C)(C)C | C6H10N2OS
